US07851492B2
2-Amino-4-chlorobenzoic acid (0.3 g), 2-fluorophenylisocyanate (0.2 ml) and triethylamine (0.24 ml) were stirred in toluene (20 ml) for a week. More 2-fluorophenylisocyanate (0.1 ml) was added and stirring continued for another week. The mixture was concentrated to almost dry, water was added and the pH was adjusted to 1 with diluted HCl. Water was decanted and the residue was dissolved in warm 96% EtOH. The pH was adjusted to 1 again with 4N HCl resulting in the precipitation of a solid, which was filtered and dried to give 4-chloro-2-[3-(2-fluoro-phenyl)-ureido]-benzoic acid (0.25 mg). Mp.=195-197° C. 4-Chloro-2-[3-(3-trifluromethyl-phenyl)-ureido]-benzenesulfonamide (Compound 10):

reactant | 2-Amino-4-chlorobenzoic acid | 0.3 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | 2-fluorophenylisocyanate | 0.2 ml | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluorophenylisocyanate | 0.1 ml | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-[3-(2-fluoro-phenyl)-ureido]-benzoic acid | 0.25 mg | ClC1=CC(=C(C(=O)O)C=C1)NC(=O)NC1=C(C=CC=C1)F | C14H10ClFN2O3
